US05602161
4-[2-[2-(Methylsulfonylamino)benzyl]tetrazol-5-yl]phenyl pivalate
Methanesulfonyl chloride (114.5 mg) was added to a solution of 4-[2-(2-aminobenzyl)tetrazol-5-yl]phenyl pivalate (0.351 g), obtained in example 78, and pyridine (79 mg) in dichloromethane (2 ml) under ice cooling, and stirring was continued for 15 h. The mixture was washed with water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel with ethyl acetate-hexane (1/2) as an eluate. Recrystallization from ethyl acetate-hexane gave 300 mg (70%) of the title compound.

reactant | Methanesulfonyl chloride | 114.5 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[2-(2-aminobenzyl)tetrazol-5-yl]phenyl pivalate | 0.351 g | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C=1N=NN(N1)CC1=C(C=CC=C1)N | C19H21N5O2
reactant | pyridine | 79 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-[2-[2-(Methylsulfonylamino)benzyl]tetrazol-5-yl]phenyl pivalate | 300 mg, 70% | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C=1N=NN(N1)CC1=C(C=CC=C1)NS(=O)(=O)C | C20H23N5O4S
